US06699508B1
1,400 g of fasudil hydrochloride hemihydrate and 70 g of HPC-L were dissolved in 2,100 ml of purified water to obtain an aqueous solution of fasudil hydrochloride. Using the obtained aqueous solution of fasudil hydrochloride, 700 g of CELPHERE CP-507 was subjected to coating with fasudil hydrochloride in the following manner. That is, 700 g of CELPHERE CP-507 was charged into an MP-01 model rolling fluid-bed granulator (manufactured and sold by POWREX CORPORATION, Japan), which was equipped with a sprayer. The aqueous solution of fasudil hydrochloride was charged in the sprayer of the granulator. The CELPHERE CP-507 was subjected to fluidization in the granulator under conditions wherein the air temperature was 85° C., the air flow rate was 70 m 3/hr and the revolution rate of the rotor was 400 rpm, while spraying the aqueous solution of fasudil hydrochloride into the fluid-bed of CELPHERE CP-507 under conditions wherein the spraying rate was 8 g/min and the air pressure for spraying was 0.3 MPa/cm2 so as to coat the CELPHERE CP-507 with fasudil hydrochloride, thereby obtaining 2,155 g of core member particles each having a particle diameter of from 710 μm to 1,000 μm.

reactant | fasudil hydrochloride hemihydrate | 1,400 g | C1CNCCN(C1)S(=O)(=O)C2=CC=CC3=C2C=CN=C3.C1CNCCN(C1)S(=O)(=O)C2=CC=CC3=C2C=CN=C3.O.Cl.Cl
solvent | water | 2,100 ml | O | H2O
product | fasudil hydrochloride | C=1C=C2C=NC=CC2=C(C1)S(=O)(=O)N3CCCNCC3.Cl | InChI=1S/C14H17N3O2S.ClH/c18-20(19,17-9-2-6-15-8-10-17)14-4-1-3-12-11-16-7-5-13(12)14;/h1,3-5,7,11,15H,2,6,8-10H2;1H
